US06720329B2
Lithium hydroxide hydrate (0.80 g, 19.0 mmol) dissolved in water (20 mL) was added to a solution of methyl 4-(2H-chromen-4-yl)benzoate from reaction 34b (1.5 gm, 5.7 mmol) in THF (20 mL) and methanol (20 mL) under nitrogen atmosphere at room temperature. The reaction was heated to 50° C. for 2 h, allowed to cool, concentrated then partitioned between 1 N HCl and ethyl acetate. The organic layer was washed with water, brine, dried over magnesium sulfate and concentrated to give 4-(2H-chromen-4-yl)benzoic acid (1.29 g, 89%) as a tan solid. MS found: (M−H)+=251.

reactant | Lithium hydroxide hydrate | 19.0 mmol, 0.80 g | O.[OH-].[Li+]
reactant | methyl 4-(2H-chromen-4-yl)benzoate | O1CC=C(C2=CC=CC=C12)C1=CC=C(C(=O)OC)C=C1 | C17H14O3
solvent | water | 20 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | 4-(2H-chromen-4-yl)benzoic acid | 1.29 g, 89% | O1CC=C(C2=CC=CC=C12)C1=CC=C(C(=O)O)C=C1 | C16H12O3
